US05763530
Preparation of 2-Acrylamido-2-Methyl-1-Propanesulfonic Acid Sodium Salt/Acrylamide Copolymer Microemulsion.
An organic solution is prepared by combining a low odor paraffin oil (252.0 g), sorbitan sesquioleate (6.0 g) and polyoxyethylene sorbitol fatty acid (42.0 g) in a reactor with stirring. To this solution is added an aqueous solution containing acrylamide (50.8 g), 2-acrylamido-2-methyl-1-propanesulfonic acid sodium salt (69.2 g), tert-butyl hydroperoxide (0.048 g), ethylenediaminetetraacetic acid tetra sodium salt (0.24 g), and water (179.7 g).

reactant | sorbitan sesquioleate | 6.0 g | CCCCCCCCC=CCCCCCCCC(=O)O.C1C(C(C(O1)C(CO)O)O)O
reactant | acrylamide | 50.8 g | C(C=C)(=O)N | C3H5NO
reactant | 2-acrylamido-2-methyl-1-propanesulfonic acid sodium salt | 69.2 g | [Na+].C(C=C)(=O)NC(CS(=O)(=O)[O-])(C)C
reactant | tert-butyl hydroperoxide | 0.048 g | C(C)(C)(C)OO | C4H10O2
reactant | ethylenediaminetetraacetic acid tetra sodium salt | 0.24 g | [Na+].[Na+].[Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-]
solvent | water | 179.7 g | O | H2O
product | 2-Acrylamido-2-Methyl-1-Propanesulfonic Acid Sodium Salt Acrylamide | [Na+].C(C=C)(=O)NC(CS(=O)(=O)[O-])(C)C.C(C=C)(=O)N | InChI=1S/C7H13NO4S.C3H5NO.Na/c1-4-6(9)8-7(2,3)5-13(10,11)12;1-2-3(4)5;/h4H,1,5H2,2-3H3,(H,8,9)(H,10,11,12);2H,1H2,(H2,4,5);/q;;+1/p-1
